US04271188
A stirred solution of ethyl 4-(4-chlorobenzylamino)-benzoate (5.8 g; 0.02 mole) in pyridine (50 ml) was treated dropwise with ethyl chloroformate (2.5 g; 0.023 mole) at room temperature. The mixture was heated to 100° C. for 30 minutes, cooled and added to iced water (100 ml). After neutralisation with dilute hydrochloric acid the product was extracted into dichloromethane (2×100 ml), washed with water (1×100 ml), dried (anhydrous MgSO4) and the solvent evaporated. The residual oil was purified by chromatography on silica-gel in dichloromethane to give ethyl N-(4-ethoxycarbonylphenyl)-N-(4-chlorobenzyl)-carbamate as a colourless oil (4.86 g; 56%) which solidifed on standing. M.p. 43°-6° C.

reactant | ethyl 4-(4-chlorobenzylamino)-benzoate | 0.02 mole, 5.8 g | ClC1=CC=C(CNC2=CC=C(C(=O)OCC)C=C2)C=C1 | C16H16ClNO2
reactant | ethyl chloroformate | 0.023 mole, 2.5 g | ClC(=O)OCC | C3H5ClO2
reactant | water | 100 ml | O | H2O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | ethyl N-(4-ethoxycarbonylphenyl)-N-(4-chlorobenzyl)-carbamate | C(C)OC(=O)C1=CC=C(C=C1)N(C(OCC)=O)CC1=CC=C(C=C1)Cl | C19H20ClNO4
